US05710150
Using 277 mg of 2-(3-methylphenyl)benzoic acid, 0.127 ml of oxalyl chloride and 180 mg of methyl (Z)-[1-(4-aminobenzoyl)-4,4-difluoro-2,3,4,5-tetrahydro-1H-1-benzazepin-5-ylidene]acetate, a similar procedure as in Reference Example 8 was repeated to obtain 249 mg of methyl (Z)-[4,4-difluoro-1-[4-[2-(3methylphenyl)benzoylamino]benzoyl]-2,3,4,5-tetrahydro-1H-1-benzazepin-5-ylidene]acetate.

reactant | 2-(3-methylphenyl)benzoic acid | 277 mg | CC=1C=C(C=CC1)C1=C(C(=O)O)C=CC=C1 | C14H12O2
reactant | oxalyl chloride | 0.127 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl (Z)-[1-(4-aminobenzoyl)-4,4-difluoro-2,3,4,5-tetrahydro-1H-1-benzazepin-5-ylidene]acetate | 180 mg | NC1=CC=C(C(=O)N2CCC(\C(\C3=C2C=CC=C3)=C/C(=O)OC)(F)F)C=C1 | C20H18F2N2O3
product | methyl (Z)-[4,4-difluoro-1-[4-[2-(3methylphenyl)benzoylamino]benzoyl]-2,3,4,5-tetrahydro-1H-1-benzazepin-5-ylidene]acetate | 249 mg | FC\1(CCN(C2=C(/C1=C/C(=O)OC)C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C2=CC(=CC=C2)C)=O)=O)F | C34H28F2N2O4
